US06310214B1
There are taken 1137.5 g (6.49 mol) 4-hydroxy-pyridine-3-sulphonic acid, 3481 g (2085 ml/22.7 mol) phosphorus oxychloride and 2115 g (1345 ml/15.4 mol) phosphorus trichloride and heated to reflux with stirring, whereby the sump temperature increases to about 80° C. In about 3 hours, 1092 g (15.4 mol) chlorine gas are passed into the reaction mixture which is immediately taken up by the mixture. With HCl evolution, the sump temperature increases to about 100° C. After 24 hours under reflux, whereby the sump temperature increases to 110° C. into the boiling range of the phosphorus oxychloride, the mixture becomes almost clear. 5550 g (3313 ml) phosphorus oxychloride are distilled off under water pump vacuum and can be reused. The residue is taken up at about 40° C. with 5030 g (4000 ml) ethylene chloride and, with external water cooling, mixed portionwise with 2600 ml water at a maximum of 30° C. After separation of the phases, the organic phase is stirred up twice with, in each case, 2500 ml water. By distilling off of the solvent and drying in a vacuum, the 4-chloropyridine-3-sulphonic acid chloride can be isolated in practically quantitative yield.

reactant | 4-hydroxy-pyridine-3-sulphonic acid | 6.49 mol, 1137.5 g | OC1=C(C=NC=C1)S(=O)(=O)O | C5H5NO4S
reactant | phosphorus oxychloride | 22.7 mol, 2085 ml, 3481 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus trichloride | 15.4 mol, 1345 ml, 2115 g | P(Cl)(Cl)Cl | Cl3P
reactant | chlorine | 15.4 mol, 1092 g | ClCl | Cl2
reactant | HCl | Cl | ClH
product | 4-chloropyridine-3-sulphonic acid chloride | quantitative yield | ClC1=C(C=NC=C1)S(=O)(=O)Cl | C5H3Cl2NO2S
